US04454147
Stirred 37% hydrochloric acid, 225 ml, was cooled in a salt-ice bath, and 2-amino-5-(4-chlorophenyl)-1,3,4-thiadiazole (18.3 g, 0.087 mole) was added. The mixture was cooled to -5° C., and a solution of sodium nitrite (25.0 g, 0.338 mole) in 100 ml of water was added dropwise during a one hour period. Upon complete addition, the reaction mixture was allowed to warm to room temperature, where it was stirred for 16 hours. The reaction mixture was heated for one hour on a steam bath, cooled, then filtered to isolate the precipitated solid. The solid was recrystallized from ethanol to give 2-chloro-5-(4-chlorophenyl)-1,3,4-thiadiazole (6.0 g, mp 125°-127° C.).

reactant | hydrochloric acid | Cl | ClH
reactant | 2-amino-5-(4-chlorophenyl)-1,3,4-thiadiazole | 0.087 mole, 18.3 g | NC=1SC(=NN1)C1=CC=C(C=C1)Cl | C8H6ClN3S
reactant | sodium nitrite | 0.338 mole, 25.0 g | N(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-chloro-5-(4-chlorophenyl)-1,3,4-thiadiazole | 6.0 g | ClC=1SC(=NN1)C1=CC=C(C=C1)Cl | C8H4Cl2N2S
